US06429315B1
A mixture of 150.0 g (0.781 mol) of 2,4-dichloro-3-nitropyridine, 226.5.g (3.9 mol) of potassium fluoride (spray dried), 75.0 g (0.233 mol) tetrabutyl-ammonium bromide (TBAB) and 800 ml of toluene is heated to reflux with a Dean-Stark trap attached to the reaction vessel. Approximately 100 ml of toluene is distilled off after which the mixture is cooled to 60° C. and 254.7 g (0.741 mol) (R)-N-[1-[(3-chlorothien-2-yl)methyl]propyl]-4-methylbenzenesulfonamide lithium salt is added. The mixture is heated at reflux for 4 hours and then cooled to room temperature. 800 ml of water is added and the reaction mixture stirred for 10 minutes. The layers are separated. The organic layer is washed twice with 800 ml of water, insoluble material is removed by filtration and the filtrate is concentrated under reduced pressure. Crystallized solid is slurried with 1 L of methanol for 1 hour at room temperature. The methanol is removed by filtration and the solid is slurried with 1 L of heptane for 1 hour. The heptane is removed by filtration and the solid is slurried with 1 L of methanol for 1 hour. The product is air-dried on the filter, then dried under vacuum at room temperature with a nitrogen bleed for 16 hours to give (R)-N-[1-[3-chlorothien-2-yl)methyl]propyl]-N-(2-fluoro-3-nitropyrid-4-yl)-4-methylbenzenesulfonamide (225.7 g, 60% yield. 95 A% pure (HPLC). The product contains approximately 2 A% of (R)-N-[1-[3-chlorothien-2-yl)methyl]propyl]-N-(2-chloro-3-nitropyrid-4-yl)-4-methylbenzenesulfonamide.

reactant | 2,4-dichloro-3-nitropyridine | 0.781 mol, 150.0 g | ClC1=NC=CC(=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | potassium fluoride | [F-].[K+]
reactant | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
reactant | (R)-N-[1-[(3-chlorothien-2-yl)methyl]propyl]-4-methylbenzenesulfonamide lithium salt | 0.741 mol, 254.7 g | [Li].ClC1=C(SC=C1)C[C@@H](CC)NS(=O)(=O)C1=CC=C(C=C1)C
catalyst | tetrabutyl-ammonium bromide | 0.233 mol, 75.0 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 800 ml | O | H2O
product | N-(2-fluoro-3-nitropyrid-4-yl)-4-methylbenzenesulfonamide | 60% yield | FC1=NC=CC(=C1[N+](=O)[O-])NS(=O)(=O)C1=CC=C(C=C1)C | C12H10FN3O4S
